US05516774
pyrrolo[1,2-a][1,4]diazepine
A mixture of 1 mmol of 9,10-dihydro-10-(4-nitrobenzoyl)-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine in 10 ml of ethyl alcohol and 10 ml of ethyl acetate containing 0.2 g of 10% Pd/C is hydrogenated for 5 hours. The reaction mixture is filtered through a pad of diatomaceous earth. The filtrate is concentrated in vacuo to a solid which is purified by flash chromatography on silica gel to give the desired product.

reactant | 9,10-dihydro-10-(4-nitrobenzoyl)-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine | 1 mmol | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2OC=C4)C=CC3)C=C1 | C17H13N3O4
reactant | ethyl acetate | 10 ml, 0.2 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | pyrrolo[1,2-a][1,4]diazepine | C=1C=2N(CC=CN1)C=CC2 | C8H8N2
